US08877742B2
1-methyl-3-(1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-4-amine
To a stirred suspension of 1-methyl-3-(1-methylindolin-6-yl)-4-nitro-1H-pyrrolo[2,3-b]pyridine (D18) (3.1 g, 10.05 mmol) in ethanol (75 mL) was added 10% palladium on carbon (1.070 g, 1.005 mmol). The mixture was then stirred under hydrogen environment (4 bar) at RT for ca. 24 hours. Extra 10% palladium on carbon (1.070 g, 1.005 mmol) was added and the mixture was stirred under hydrogen (4 bar) at RT for another 24 hours. Additional 10% palladium on carbon (1.070 g, 1.005 mmol) was added and the mixture continued stirring under hydrogen atmosphere at RT for overnight (ca. 16 hours). The reaction mixture was filtered through celite. Washed celite with excess ethanol and the filtrate was concentrated. The residue was purified by chromatography on silica, eluting with a gradient of 0-20% MeOH in DCM to give the title compound (1.21 g). LCMS (A): m/z (M+H)+ 279, C17H18N4 requires 278 (acidic).

reactant | 1-methyl-3-(1-methylindolin-6-yl)-4-nitro-1H-pyrrolo[2,3-b]pyridine | 10.05 mmol, 3.1 g | CN1C=C(C=2C1=NC=CC2[N+](=O)[O-])C2=CC=C1CCN(C1=C2)C | C17H16N4O2
solvent | ethanol | 75 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 1.005 mmol, 1.070 g | [Pd] | Pd
catalyst | palladium on carbon | 1.005 mmol, 1.070 g | [Pd] | Pd
catalyst | palladium on carbon | 1.005 mmol, 1.070 g | [Pd] | Pd
product | 1-methyl-3-(1-methylindolin-6-yl)-1H-pyrrolo[2,3-b]pyridin-4-amine | 1.21 g | CN1C=C(C2=C1N=CC=C2N)C2=CC=C1CCN(C1=C2)C | C17H18N4
